US05616586
9-Bromo-5-(p-cyanophenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and p-cyanoaniline (60 mg, 0.51 mmol) to give 90 mg of the title compound (41%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.06 (s, 1H), 10.44 (s, 1H), 7.77 (d, 2H, J=9.2 Hz), 7.74 (d, 2H, J=9.2 Hz), 7.23 (bs, 1H), 7.17 (bs, 1H), 5.18~5.26 (m, 1H), 3.03 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=17.1Hz), 2.65(d, 2H, J=7.6Hz),2.11 (dm, 1H, J=13.5Hz), 1.83~1.96 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | p-cyanoaniline | 0.51 mmol, 60 mg | C(#N)C1=CC=C(N)C=C1 | C7H6N2
product | 9-Bromo-5-(p-cyanophenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 90 mg, 41% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=C(C=C2)C#N)=O | C20H15BrN4O3
